US07601716B2
N-(3-Chloro-benzyl)-4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzamide
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 3-chlorobenzylamine as in General Procedure 10 to give the title compound. LCMS: m/z=570.90 (M+H+); retention time=0.98 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 3-chlorobenzylamine | ClC=1C=C(CN)C=CC1 | C7H8ClN
product | N-(3-Chloro-benzyl)-4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzamide | ClC=1C=C(CNC(C2=CC=C(C=C2)C2=CC3=C(NCCN3CC3=C(C=CC(=C3)Cl)C(F)(F)F)N=C2)=O)C=CC1 | C29H23Cl2F3N4O
